US08198269B2
(11) Synthesis of tert-butyl [(4aR,6R,8aS)-8a-(5-amino-2-fluorophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate
Iron powder (121 mg) and a saturated ammonium chloride solution (1 ml) were added to a solution of tert-butyl [(4aR,6R,8aS)-8a-(2-fluoro-5-nitrophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate (120 mg) in ethanol (20 ml). The reaction solution was heated under reflux for 40 minutes and then cooled to room temperature. The insoluble matter was filtered off through celite, and the filtrate was evaporated under reduced pressure. The residue was purified by NH-silica gel column chromatography to obtain the title compound (67 mg).

reactant | ammonium chloride | 1 ml | [Cl-].[NH4+]
reactant | tert-butyl [(4aR,6R,8aS)-8a-(2-fluoro-5-nitrophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 120 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])[C@@]12CO[C@H](C[C@H]2CSC(=N1)NC(OC(C)(C)C)=O)CO | C19H24FN3O6S
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Iron | 121 mg | [Fe] | Fe
product | tert-butyl [(4aR,6R,8aS)-8a-(5-amino-2-fluorophenyl)-6-hydroxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]carbamate | 67 mg | NC=1C=CC(=C(C1)[C@@]12CO[C@H](C[C@H]2CSC(=N1)NC(OC(C)(C)C)=O)CO)F | C19H26FN3O4S
